US04319913
The 1-isopropyl-2-trimethylsilyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide was added to 50 ml. of methanol and allowed to stand for 40 hours. The methanol was removed under vacuum and the resulting residue was slurried in ether to yield 1-isopropyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide as a white solid. A second crop was obtained to give a total yield of 2.35 g (20% yield) of 1-isopropyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide having a melting point of 149°-151° C. and the following analysis:

reactant | 1-isopropyl-2-trimethylsilyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | C(C)(C)P1(N(CC2=C1C=CC=C2)[Si](C)(C)C)=O | C13H22NOPSi
solvent | methanol | CO | CH4O
product | 1-isopropyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | C(C)(C)P1(NCC2=C1C=CC=C2)=O | C10H14NOP
